US05008263
(a) 5-Chloro-1-(4-cyanophenyl)-2-methylimidazole
A solution of 1-(4-cyanophenyl)-2-methylimidazole (3 g, 16.4 mmol) and N-chlorosuccinimide (2.18 g, 16.3 mmol) in chloroform (180 ml) was heated at reflux for 4 hours, then washed with water, dried over magnesium sulphate and evaporated to a yellow solid. Trituration with ether left a pale-yellow solid (2.38 g, 67%).

reactant | 1-(4-cyanophenyl)-2-methylimidazole | 16.4 mmol, 3 g | C(#N)C1=CC=C(C=C1)N1C(=NC=C1)C | C11H9N3
reactant | N-chlorosuccinimide | 16.3 mmol, 2.18 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | 180 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloro-1-(4-cyanophenyl)-2-methylimidazole | ClC1=CN=C(N1C1=CC=C(C=C1)C#N)C | C11H8ClN3
